US07572809B2
A 2.0˜5.0 mL process vial was charged with 50 mg methanesulfonic acid 3-(1-methanesulfonyl-5-methyl-1H-pyrazol-3-ylamino)-6-methoxy-isoquinolin-1-ylmethyl ester, 50 mg piperidine, 75 mg K2CO3 in 3 mL THF/EtOH(1:1). The vial was heated at 120° C. for 30 min under microwave irradiation. After cooling, the reaction mixture was filtered through a short silica gel column, and the solvent was removed under reduced pressure. The residue in MeOH was sent to prep-HPLC to get 5 mg of (6-Methoxy-1-piperidin-1-ylmethyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine as a yellow solid. LC-MS m/e 352 (MH+).

reactant | methanesulfonic acid 3-(1-methanesulfonyl-5-methyl-1H-pyrazol-3-ylamino)-6-methoxy-isoquinolin-1-ylmethyl ester | 50 mg | CS(=O)(=O)N1N=C(C=C1C)NC=1N=C(C2=CC=C(C=C2C1)OC)COS(=O)(=O)C | C17H20N4O6S2
reactant | piperidine | 50 mg | N1CCCCC1 | C5H11N
reactant | K2CO3 | 75 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | THF EtOH | 3 mL | C1CCOC1.CCO
product | (6-Methoxy-1-piperidin-1-ylmethyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 5 mg | COC=1C=C2C=C(N=C(C2=CC1)CN1CCCCC1)NC1=NNC(=C1)C | C20H25N5O
